US06194406B1
Synthesis of 3,4,5-Trimethoxybenzyl mesylate
Combine 3,4,5-trimethoxybenzyl alcohol (9.0 g, 45.4 mmol), N,N-diisopropylethylamine (12.9 g, 100 mmol), and acetonitrile (60 mL). Cool in an ice bath. Add methanesulfonyl chloride (6.76 g, 49.0 mmol). After 2 hours, partition the reaction mixture between water and ethyl acetate. Separate the layers and extract the organic layer with 1 M hydrochloric acid solution and them a saturated solution of sodium bicarbonate. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 3,4,5-trimethoxybenzyl alcohol | 45.4 mmol, 9.0 g | COC=1C=C(CO)C=C(C1OC)OC | C10H14O4
reactant | N,N-diisopropylethylamine | 100 mmol, 12.9 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 49.0 mmol, 6.76 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 3,4,5-Trimethoxybenzyl mesylate | S(C)(=O)(=O)OCC1=CC(=C(C(=C1)OC)OC)OC | C11H16O6S
